US06723722B1
A solution of methyl 4-[carboxymethyl(6-chloro-naphthalene-2-sulfonyl)amino]-2-butenate (796 mg), tert-butyl carbazate (265 mg) and HOBt (367 mg) in acetonitrile (20 ml) was combined with WSC (575 mg) and stirred at room temperature for 15 hours. The reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water and brine, dried, concentrated to obtain a residue, which was then crystallized from ether-hexane to obtain methyl 4-[[2-(N′-tert-butoxycarbonylhydrazino)-2-oxoethyl](6-chloro-naphthalene-2-sulfonyl)amino]-2-butenoate (1.05 g) as colorless crystals.

reactant | methyl 4-[carboxymethyl(6-chloro-naphthalene-2-sulfonyl)amino]-2-butenate | 796 mg | C(=O)(O)CN(CC=CC(=O)OC)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C17H16ClNO6S
reactant | tert-butyl carbazate | 265 mg | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | HOBt | 367 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 575 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | methyl 4-[[2-(N′-tert-butoxycarbonylhydrazino)-2-oxoethyl](6-chloro-naphthalene-2-sulfonyl)amino]-2-butenoate | 1.05 g | C(C)(C)(C)OC(=O)NNC(CN(CC=CC(=O)OC)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C22H26ClN3O7S
